US08252781B2
Preparation of 1-(1,3-benzodioxol-4-ylmethyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 2,3-(methylenedioxy)benzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a white crystalline powder.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 2,3-(methylenedioxy)benzyl bromide | C1OC2=C(CBr)C=CC=C2O1 | C8H7BrO2
product | 1-(1,3-benzodioxol-4-ylmethyl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | O1COC2=C1C=CC=C2CN2N(C(C2(C)C)=O)C2C1CC3CC(CC2C3)C1 | C22H28N2O3
